US05182325
A. Tribenzyl borate
A mixture of 186g of boric acid and 990g of benzyl alcohol was heated at 70° C. During the reaction 180ml of a water/benzyl alcohol azeotrope were distilled over. The residue was distilled under a pressure of 0.5-10mm Hg and in this manner 950g of the title compound were obtained as a clear liquid.

reactant | boric acid | B(O)(O)O | BH3O3
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
solvent | water benzyl alcohol | 180ml | O.C(C1=CC=CC=C1)O
product | Tribenzyl borate | B(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C21H21BO3
